* d:\fossee\esim-workspace\spamp\spamp.cir

.include NMOS-5um.lib
.include PMOS-5um.lib
m2 net-_c1-pad2_ net-_cds1-pad1_ net-_c2-pad1_ net-_c2-pad1_ mos_n W=100u L=100u M=1
m1 net-_cds1-pad1_ in net-_cds1-pad2_ net-_cds1-pad2_ mos_p W=100u L=100u M=1
r4  net-_cds1-pad2_ net-_c1-pad2_ 6.7meg
r5  net-_c1-pad2_ net-_r2-pad2_ 10meg
r3  gnd in 100k
v2 net-_r2-pad2_ gnd  dc 1.8
r7  gnd vout 100meg
r2  in net-_r2-pad2_ 100k
c1  vout net-_c1-pad2_ 100u
cds1  net-_cds1-pad1_ net-_cds1-pad2_ 0.1u
cgs1  net-_cds1-pad1_ in 0.1u
cgd1  net-_cds1-pad2_ in 0.1u
c2  net-_c2-pad1_ gnd 100u
r6  gnd net-_c2-pad1_ 1k
* u1  vout plot_v1
v1  in gnd sine(0 10m 100 0 0)
* u2  in plot_v1
.op

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(in)
.endc
.end
